US04978657
570 mg of p-toluene sulfonic acid were added to a solution of 1.075 g of 11β-(4-dimethylaminophenyl -17α-(prop-1-ynyl)-Δ4,9 -estradiene-17β-ol-3-one [prepared Example 1 of EPC Application Ser. No. 57,115] in 10 ml of tetrahydrofuran and 2 ml of 3,4-dihydro-pyran and the mixture was stirred at room temperature for one hour. 1 ml of triethylamine was added to the mixture which was then diluted with ethyl acetate. The organic phase was washed with aqueous saturated sodium bicabonate solution, dried and evaporated to dryness under reduced pressure to obtain 2 g of raw 11β-(4-dimethylaminophenyl)-17α-(prop-1-ynyl)17β-2RS-tetrahydropyranyloxy)-66 4,9 -estradiene 3-one in the form of a yellow oil.

reactant | p-toluene sulfonic acid | 570 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 3,4-dihydro-pyran | 2 ml | O1CCCC=C1 | C5H8O
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4,9 -estradiene 3-one | C[C@@]12CCC[C@H]1[C@@H]1CCC3=CC(CCC3=C1CC2)=O | C18H24O
